US06956049B1
N-[(Dimethylamino)ethylidene]-cinnamamide (2.0 g, 9.0 mmol) was added to a solution of hydrazine hydrate (0.59 mL, 10 mmol) and acetic acid (25 mL). The mixture was heated to 90° C. for 3 h, cooled, and concentrated in vacuo. The resulting material was basified (pH 8) with solid K2CO3, and partitioned between ethyl acetate and water. The organics were dried over Na2SO4 and concentrated in vacuo. The resultant material was purified by flash column chromatography on silica eluting with 1:2 hexane-ethyl acetate to afford 3-methyl-5-[(E)-2-phenylethenyl]-1H-1,2,4-triazole (1.6 g, 96% yield) as a white powder. M.p. 131–134° C. 1H NMR (CDCl3,300 MHz) δ 7.68 (d, J=16 Hz, 0.3H), 7.59 (d, J=16 Hz, 0.7H), 7.49 (m, 2H), 7.32 (m, 3H), 7.05 (d, J=16 Hz, 1H), 6.49 (d, J=16 Hz, 0.4H), 6.21 (br s, 0.3H), 5.88 (br s, 0.3H), 2.53 (s, 3H). MS (EI ionization) 184 (M+−H).

reactant | N-[(Dimethylamino)ethylidene]-cinnamamide | 9.0 mmol, 2.0 g | CN(C)CC=NC(C=CC1=CC=CC=C1)=O | C13H16N2O
reactant | hydrazine hydrate | 10 mmol, 0.59 mL | O.NN
solvent | acetic acid | 25 mL | C(C)(=O)O | C2H4O2
product | 3-methyl-5-[(E)-2-phenylethenyl]-1H-1,2,4-triazole | 1.6 g, 96% yield | CC1=NNC(=N1)\C=C\C1=CC=CC=C1 | C11H11N3
